US06133303
6-(2-Imidazole-1-yl-ethoxy)-2-(4-methoxy-benzylidene)-3,4-dihydro-2H-naphthalen-1-one
According to the method of Example 4, 6-(2-imidazole-1-yl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one (0.200 g, 0.78 mmol) was reacted with p-anisaldehyde (0.117 g, 0.87 mmol) in 2 mL of 4% KOH in EtOH at room temperature overnight to afford 0.248 g (84%) of the title compound, mp 132-133° C.: APCI-MS m/e 375 (M+ +1).

reactant | 6-(2-imidazole-1-yl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one | 0.78 mmol, 0.200 g | N1(C=NC=C1)CCOC=1C=C2CCCC(C2=CC1)=O | C15H16N2O2
reactant | p-anisaldehyde | 0.87 mmol, 0.117 g | C(C1=CC=C(C=C1)OC)=O | C8H8O2
solvent | KOH | 2 mL | [OH-].[K+]
solvent | EtOH | CCO | C2H6O
product | 6-(2-Imidazole-1-yl-ethoxy)-2-(4-methoxy-benzylidene)-3,4-dihydro-2H-naphthalen-1-one | 0.248 g, 84% | N1(C=NC=C1)CCOC=1C=C2CCC(C(C2=CC1)=O)=CC1=CC=C(C=C1)OC | C23H22N2O3
